US06627629B2
Part B: Preparation of ethyl 1-(t-butoxycarbonyl)-3-oxo-4-piperidinecarboxylate
In a dry flask, the crude ethyl 3-oxo-4-piperidine-carboxylate 2.88 g, 16.8 mmol) is dissolved in methanol (40 mL) and di-t-butyl dicarbonate (4.03 g, 18.5 mmol) and triethylamine (3.74 g, 36.9 mmol) were added. The reaction mixture was stirred under an argon atmosphere for 6 hours at room temperature. The reaction mixture was concentrated in vacuo and then water (30 mL) and ethyl acetate (30 mL) were added. The aqueous layer was separated and then extracted twice with ethyl acetate (30 mL). The combined organic extracts were dried with magnesium sulfate, filtered and concentrated in vacuo. Purification by flash column chromatography (20% ethyl acetate/hexanes) provided 4.19 g (92%) of a colorless oil. 1H NMR (300 MHz, CDCl3), δ: 12.08 (bs, 1H), 4.23 (q, 2H, J=7), 4.03 (bs, 2H), 3.49 (t, 2H, J=6), 2.32 (bt, 2H, J=6), 1.47 (s, 9H), 1.31 (t, 3H, J=7).

reactant | ethyl 3-oxo-4-piperidine-carboxylate | 16.8 mmol, 2.88 g | O=C1CNCCC1C(=O)OCC | C8H13NO3
reactant | di-t-butyl dicarbonate | 18.5 mmol, 4.03 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 36.9 mmol, 3.74 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 40 mL | CO | CH4O
product | ethyl 1-(t-butoxycarbonyl)-3-oxo-4-piperidinecarboxylate | 4.19 g, 92% | C(C)(C)(C)OC(=O)N1CC(C(CC1)C(=O)OCC)=O | C13H21NO5
